### PR TITLE
[Merged by Bors] - feat: A disjoint union is finite iff all sets are finite, and all but finitely many are empty

### PR DESCRIPTION
**Pull request by sgouezel**
From the Carleson project

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 1]
```diff
@@ -152,6 +152,47 @@ theorem Finite.iUnion {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Fini
   · rw [he i hi, mem_empty_iff_false] at hx
     contradiction
 
+/-- An indexed union of pairwise disjoint sets is finite iff all sets are finite, and all but
+finitely many are empty. -/
+lemma finite_biUnion_iff_of_pairwiseDisjoint {f : β → Set α} {s : Set β}
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite/Lattice.lean:157]: Perhaps
```suggestion
lemma PairwiseDisjoint.finite_biUnion_iff {f : β → Set α} {s : Set β}
```
for dot notation?

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 2]
```diff
@@ -152,6 +152,47 @@ theorem Finite.iUnion {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Fini
...
+        have : Disjoint (f i) (f j) := hs hi.1 hj.1 h'ij
+        have ui : (u ⟨i, hi⟩ : α) ∈ f i := hi.2.choose_spec
+        rw [hij] at ui
+        have uj : (u ⟨j, hj⟩ : α) ∈ f j := hj.2.choose_spec
+        exact disjoint_left.1 this ui uj
+      have : Finite (⋃ i ∈ s, f i) := h
+      exact Finite.of_injective u u_inj
+  · rintro ⟨h, h'⟩
+    have : ⋃ i ∈ s, f i = ⋃ i ∈ {i ∈ s | (f i).Nonempty}, f i := by
+      ext; simp; tauto
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite/Lattice.lean:183]:
```suggestion
    have : ⋃ i ∈ s, f i = ⋃ i ∈ {i ∈ s | (f i).Nonempty}, f i := by simp [iUnion_and]
```

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 3]
```diff
@@ -152,6 +152,47 @@ theorem Finite.iUnion {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Fini
...
+        exact ⟨i, i.2.1, this⟩⟩
+      have u_inj : Function.Injective u := by
+        rintro ⟨i, hi⟩ ⟨j, hj⟩ hij
+        simp only [coe_setOf, mem_setOf_eq, Subtype.mk.injEq]
+        by_contra h'ij
+        have : Disjoint (f i) (f j) := hs hi.1 hj.1 h'ij
+        have ui : (u ⟨i, hi⟩ : α) ∈ f i := hi.2.choose_spec
+        rw [hij] at ui
+        have uj : (u ⟨j, hj⟩ : α) ∈ f j := hj.2.choose_spec
+        exact disjoint_left.1 this ui uj
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite/Lattice.lean:178]:
```suggestion
      have u_inj : Function.Injective u := by
        rintro ⟨i, hi⟩ ⟨j, hj⟩ hij
        have ui : (u ⟨i, hi⟩ : α) ∈ f i := hi.2.choose_spec
        rw [hij] at ui
        have uj : (u ⟨j, hj⟩ : α) ∈ f j := hj.2.choose_spec
        ext
        exact hs.elim_set hi.1 hj.1 _ ui uj
```
or if you're happy to really golf it
```suggestion
      have u_inj : Function.Injective u := by
        rintro ⟨i, hi⟩ ⟨j, hj⟩ hij
        rw [Subtype.ext_iff] at hij ⊢
        exact hs.elim_set hi.1 hj.1 _ hi.2.choose_spec (mem_of_eq_of_mem hij hj.2.choose_spec)
```

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 4]
```diff
@@ -152,6 +152,47 @@ theorem Finite.iUnion {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Fini
...
+finitely many are empty. -/
+lemma finite_biUnion_iff_of_pairwiseDisjoint {f : β → Set α} {s : Set β}
+    (hs : s.PairwiseDisjoint f) :
+    Set.Finite (⋃ i ∈ s, f i)
+      ↔ (∀ i ∈ s, Set.Finite (f i)) ∧ Set.Finite {i ∈ s | (f i).Nonempty} := by
+  constructor
+  · intro h
+    refine ⟨fun i hi ↦ ?_, ?_⟩
+    · have : f i ⊆ ⋃ i ∈ s, f i := subset_biUnion_of_mem hi
+      exact Finite.subset h this
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite/Lattice.lean:165]:
```suggestion
      exact h.subset this
```
though I'd be tempted to golf this with the previous line

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 5]
```diff
@@ -152,6 +152,47 @@ theorem Finite.iUnion {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Fini
...
+    · let u : {i ∈ s | (f i).Nonempty} → ⋃ i ∈ s, f i := fun i ↦ ⟨i.2.2.choose, by
+        have : i.2.2.choose ∈ f i := i.2.2.choose_spec
+        simp only [mem_setOf_eq, mem_iUnion, exists_prop]
+        exact ⟨i, i.2.1, this⟩⟩
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite/Lattice.lean:169]:
```suggestion
    · let u : {i ∈ s | (f i).Nonempty} → ⋃ i ∈ s, f i :=
        fun i ↦ ⟨i.2.2.choose, mem_biUnion i.2.1 i.2.2.choose_spec⟩
```

**Comment by sgouezel** [comment]
Thanks for the review!

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 6]
```diff
@@ -152,6 +152,42 @@ theorem Finite.iUnion {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Fini
   · rw [he i hi, mem_empty_iff_false] at hx
     contradiction
 
+/-- An indexed union of pairwise disjoint sets is finite iff all sets are finite, and all but
+finitely many are empty. -/
+lemma PairwiseDisjoint.finite_biUnion_iff {f : β → Set α} {s : Set β}
+    (hs : s.PairwiseDisjoint f) :
+    Set.Finite (⋃ i ∈ s, f i)
```
Comment (eric-wieser) [inline Mathlib/Data/Set/Finite/Lattice.lean:159]: I'd liked to have seen this be of the more general form
```suggestion
    Set.Finite (⋃ (i) (h : i ∈ s, f i h)
```
but I guess the definition of `PairwiseDisjoint` doesn't permit this; so no action needed.

**Review by eric-wieser — APPROVED** [review]
bors d+

Consider waiting a day or two to let @YaelDillies have a look for any other API like `elim_set` that can make this more concise

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 7]
```diff
@@ -152,6 +152,42 @@ theorem Finite.iUnion {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Fini
...
+        ext
+        exact hs.elim_set hi.1 hj.1 _ ui uj
+      have : Finite (⋃ i ∈ s, f i) := h
+      exact Finite.of_injective u u_inj
+  · rintro ⟨h, h'⟩
+    have : ⋃ i ∈ s, f i = ⋃ i ∈ {i ∈ s | (f i).Nonempty}, f i := by simp [iUnion_and]
+    rw [this]
+    apply Set.Finite.biUnion h'
+    intro i hi
+    exact h i hi.1
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Finite/Lattice.lean:182]: Here is a golf
```suggestion
/-- An indexed union of pairwise disjoint sets is finite iff all sets are finite, and all but
finitely many are empty. -/
lemma finite_iUnion_iff {ι : Type*} {s : ι → Set α} (hs : Pairwise fun i j ↦ Disjoint (s i) (s j)) :
    (⋃ i, s i).Finite ↔ (∀ i, (s i).Finite) ∧ {i | (s i).Nonempty}.Finite where
  mp h := by
    refine ⟨fun i ↦ h.subset <| subset_iUnion _ _, ?_⟩
    let u (i : {i | (s i).Nonempty}) : ⋃ i, s i := ⟨i.2.choose, mem_iUnion.2 ⟨i.1, i.2.choose_spec⟩⟩
    have u_inj : Function.Injective u := by
      rintro ⟨i, hi⟩ ⟨j, hj⟩ hij
      ext
      refine hs.eq <| not_disjoint_iff.2 ⟨u ⟨i, hi⟩, hi.choose_spec, ?_⟩
      rw [hij]
      exact hj.choose_spec
    have : Finite (⋃ i, s i) := h
    exact .of_injective u u_inj
  mpr h := h.2.iUnion (fun _ _ ↦ h.1 _) (by simp [not_nonempty_iff_eq_empty])

@[simp] lemma finite_iUnion_of_subsingleton {ι : Sort*} [Subsingleton ι] {s : ι → Set α} :
    (⋃ i, s i).Finite ↔ ∀ i, (s i).Finite := by
  rw [← iUnion_plift_down, finite_iUnion_iff _root_.Subsingleton.pairwise]
  simp [PLift.forall, Finite.of_subsingleton]

/-- An indexed union of pairwise disjoint sets is finite iff all sets are finite, and all but
finitely many are empty. -/
lemma PairwiseDisjoint.finite_biUnion_iff {f : β → Set α} {s : Set β} (hs : s.PairwiseDisjoint f) :
    (⋃ i ∈ s, f i).Finite ↔ (∀ i ∈ s, (f i).Finite) ∧ {i ∈ s | (f i).Nonempty}.Finite := by
  rw [finite_iUnion_iff (by aesop (add unfold safe [Pairwise, PairwiseDisjoint, Set.Pairwise]))]
  simp
```

File: Mathlib/Data/Set/Finite/Lattice.lean [hunk 8]
```diff
@@ -152,6 +152,42 @@ theorem Finite.iUnion {ι : Type*} {s : ι → Set α} {t : Set ι} (ht : t.Fini
...
+    (⋃ i ∈ s, f i).Finite ↔ (∀ i ∈ s, (f i).Finite) ∧ {i ∈ s | (f i).Nonempty}.Finite := by
+  rw [finite_iUnion_iff (by aesop (add unfold safe [Pairwise, PairwiseDisjoint, Set.Pairwise]))]
+  simp
+
+/-- An indexed union of pairwise disjoint sets is finite iff all sets are finite, and all but
+finitely many are empty. -/
+lemma PairwiseDisjoint.finite_iUnion_iff {f : β → Set α} (hs : univ.PairwiseDisjoint f) :
+    Set.Finite (⋃ i, f i) ↔ (∀ i, Set.Finite (f i)) ∧ Set.Finite {i | (f i).Nonempty} := by
+  rw [← biUnion_univ, hs.finite_biUnion_iff]
+  simp
```
Comment (YaelDillies) [inline Mathlib/Data/Set/Finite/Lattice.lean:189]: I guess this now duplicates `finite_iUnion_iff`
